US07399812B2
Preparation of 2,2-dimethyl-1-ethoxy-3-[(tert-butyidimethylsilyl)oxy]-propane
According to the procedure as described in Example 3,2,2-dimethyl-1-ethoxy-3-[(tert-butyldimethylsilyl)oxy]propane was prepared from intermediate 2,2-dimethyl-3-ethoxy-1-propanol and reagent tert-butyidimethylsilyl chloride.

reactant | 2,2-dimethyl-3-ethoxy-1-propanol | CC(CO)(COCC)C | C7H16O2
reactant | tert-butyidimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 2,2-dimethyl-1-ethoxy-3-[(tert-butyidimethylsilyl)oxy]-propane | CC(COCC)(CO[Si](C)(C)C(C)(C)C)C | C13H30O2Si
